US07569337B2
3-Benzothiazol-2-yl-7-[4-(3-hydroxy-propyl)-piperazin-1-yl]-chromen-2-one
320 mg (1 mmol) 3-{4-[3-(tetrahydro-pyran-2-yloxy)-propyl]-piperazin-1-yl}-phenol is dissolved in 10 mL DMF and treated below 10° C. with 0.1 mL POCl3. The reaction mixture is stirred at room temperature for 6 hours, then evaporated and the crude product taken up in 10 mL acetonitrile and treated with 0.6 mL (6 eq.) piperidine. 207 mg benzothiazol-2-yl-acetic acid methyl ester in 10 mL toluene are added and the reaction mixture stirred for 30 minutes at 90° C. before being evaporated. The residue is taken up in 20 mL anhydrous THF, stirred for two hours in the presence of 1 mL of a 6N aqueous HCl solution and evaporated. The residue is taken up in dichloromethane and washed with aqueous sodium bicarbonate and saline. The organic phase is evaporated and the residue column chromatographed (silica gel, dichloromethane/EtOH/aq. NH3 90:9.9:0.1) to yield 70 mg (17%) desired product as a yellow-orange powder.

reactant | 3-{4-[3-(tetrahydro-pyran-2-yloxy)-propyl]-piperazin-1-yl}-phenol | 1 mmol, 320 mg | O1C(CCCC1)OCCCN1CCN(CC1)C=1C=C(C=CC1)O | C18H28N2O3
reactant | POCl3 | 0.1 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | piperidine | 0.6 mL, 6 eq. | N1CCCCC1 | C5H11N
reactant | benzothiazol-2-yl-acetic acid methyl ester | 207 mg | COC(CC=1SC2=C(N1)C=CC=C2)=O | C10H9NO2S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Benzothiazol-2-yl-7-[4-(3-hydroxy-propyl)-piperazin-1-yl]-chromen-2-one | 70 mg, 17% | S1C(=NC2=C1C=CC=C2)C=2C(OC1=CC(=CC=C1C2)N2CCN(CC2)CCCO)=O | C23H23N3O3S
